US07199154B2
Step 2: ethyl (2Z)-4-({[(6-bromohexyl)oxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a solution of 2.6 g of (2Z)-4-({[(6-bromohexyl)oxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid in 20 mL of DMF at rt was added 3.8 mL of ethyl iodide and 670 mg of potassium carbonate under nitrogen. The reaction was stirred for 1 h, quenched by saturated aqueous NH4Cl, extracted with EtOAc, washed with water (3×), brine, and dried over sodium sulfate. Purification by flash chromatography afforded 1.86 g of the titled compound as a brownish oil.

reactant | (2Z)-4-({[(6-bromohexyl)oxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 2.6 g | BrCCCCCCOC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C24H27BrO7S
reactant | ethyl iodide | 3.8 mL | C(C)I | C2H5I
reactant | potassium carbonate | 670 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl (2Z)-4-({[(6-bromohexyl)oxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 1.86 g | BrCCCCCCOC(=O)OC\C(=C(/C(=O)OCC)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C | C26H31BrO7S
